US04420614
α-(1-Pyrrolidinyl)-3-phenoxybenzeneacetonitrile (3)
A solution of pyrrolidine (2.13 g, 30 mmole) in water (10 ml) was neutralised with concentrated hydrochloric acid. 3-Phenoxybenzaldehyde (3.96 g; 20 mmole) was added to the stirred solution followed by sodium cyanide (1.5 g; 30 mmole) and "Teric" N8 (5 drops of a 10% aqueous solution). The mixture was stirred vigorously for a period of 1 hour and then dichloromethane (50 ml) was added. The organic phase was separated, washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure to give the title compound as a yellow oil (5.0 g). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.8 (4H, m, pyrrolidine ring β-protons); 2.6 (4H, m, pyrrolidine ring α-protons); 5.0 (1H, s, CH); 7.0-7.6 (9H, m, aromatic protons). Infra-red spectrum (liquid film; νmax in cm-1): 2950 (m) (m); 2800(m); 1580(s); 1480(s); 1240(s); 840(m); 740(m).

reactant | pyrrolidine | 30 mmole, 2.13 g | N1CCCC1 | C4H9N
reactant | hydrochloric acid | Cl | ClH
reactant | 3-Phenoxybenzaldehyde | 20 mmole, 3.96 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | sodium cyanide | 30 mmole, 1.5 g | [C-]#N.[Na+]
solvent | water | 10 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | α-(1-Pyrrolidinyl)-3-phenoxybenzeneacetonitrile | 5.0 g | N1(CCCC1)C(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C18H18N2O
